US06399644B1
A solution of 2,6-dibromobenzenesulfonyl chloride (4.7 g, 14.0 mmol) in tetrahydrofuran (20 mL) was treated with potassium carbonate (5.8 g, 42 mmol) and t-butyl amine (1.2 g, 16.8 mmol). The resulting mixture was stirred at ambient temperature over 18 h then poured into water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford 2,6-dibromo-N-(1,1-dimethylethyl)benzenesulfonamide (4.5 g, 87%) as the white solid, which was used without further purification. 1H NMR (CD3OD): δ1.22 (s, 9H), 7.22 (t, 1H), 7.85 (d, 2H).

reactant | 2,6-dibromobenzenesulfonyl chloride | 14.0 mmol, 4.7 g | BrC1=C(C(=CC=C1)Br)S(=O)(=O)Cl | C6H3Br2ClO2S
reactant | potassium carbonate | 42 mmol, 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl amine | 16.8 mmol, 1.2 g | C(C)(C)(C)N | C4H11N
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2,6-dibromo-N-(1,1-dimethylethyl)benzenesulfonamide | 4.5 g, 87% | BrC1=C(C(=CC=C1)Br)S(=O)(=O)NC(C)(C)C | C10H13Br2NO2S
